US07071175B1
1M NaOH (2 mL) was added to a solution of 2-(6-tert-butoxycarbonylamino-pyridin-3-ylmethyl)-2-methyl-malonic acid tert-butyl ester ethyl ester (0.42g, 1.03 mmol) in THF/EtOH (4 mL, 1:1) . The reaction mixture was stirred at 50° C. for 16 h. CH2Cl2 was added and the mixture was washed with 0.5 M HCl and brine and dried. Concentration under reduced pressure gave 2-(6-tert-butoxycarbonylamino-pyridin-3-ylmethyl)-2-methyl-malonic acid mono-tert-butyl ester (348 mg, 89%).

reactant | NaOH | 1M, 2 mL | [OH-].[Na+]
reactant | 2-(6-tert-butoxycarbonylamino-pyridin-3-ylmethyl)-2-methyl-malonic acid tert-butyl ester ethyl ester | 1.03 mmol, 0.42g | C(C)OC(C(C(=O)OC(C)(C)C)(C)CC=1C=NC(=CC1)NC(=O)OC(C)(C)C)=O | C21H32N2O6
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | THF EtOH | 4 mL | C1CCOC1.CCO
product | 2-(6-tert-butoxycarbonylamino-pyridin-3-ylmethyl)-2-methyl-malonic acid mono-tert-butyl ester | 348 mg, 89% | C(C)(C)(C)OC(C(C(=O)O)(C)CC=1C=NC(=CC1)NC(=O)OC(C)(C)C)=O | C19H28N2O6
